US08003692B2
3-Thiophen-3-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and 3-thiophene boronic acid according to the general procedure described for the Suzuki coupling. The product was purified by automated flash chromatography using gradient elution (0 to 50% ethyl acetate/hexanes). A yellow solid was isolated after collection of fractions and recrystallized from hexanes and ethyl acetate to give 0.086 g of colorless needles (72%). 1H NMR (CDCl3, 300 MHz): δ 2.13 (quintet, J=6.3 Hz, 2H), 2.47 (t, J=6.3 Hz, 2H), 2.76 (dd, J=6.3, 1.2 Hz, 2H), 6.39 (t, J=1.2 Hz, 1H), 7.31-7.36 (m, 2H), 7.55 (dd, J=2.7, 1.5 Hz, 1H). 13C NMR (CDCl3, 75 MHz): δ 22.6, 27.8, 37.4, 123.8, 124.9, 125.0, 126.6, 140.5, 153.3, 199.9. LCMS (ESI): mass calcd for (C10H10OS) m/z 178.05; measured [M+H]+: m/z 179.04.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 3-thiophene boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 3-Thiophen-3-yl-cyclohex-2-enone | 0.086 g, 72% | S1C=C(C=C1)C1=CC(CCC1)=O | C10H10OS
